* Auto-generated SPICE netlist (NO TEXT OCR USED)

I1 n4 0 AC 1m
C1 n3 0 1u
C2 n3 n1 1u
R1 n2 n3 1k
R2 n1 0 1k

* --- design-intent repair (does not change topology) ---
Rshunt_n2 n2 0 1e+09
Rshunt_n4 n4 0 1e+09

.op
.end
