* Auto-generated SPICE netlist (NO TEXT OCR USED)

C1 0 n2 1u
I1 0 n4 AC 1m
V1 n2 n5 AC 1
L1 0 n1 1m
I2 n3 n1 DC 1m
I3 n2 n5 DC 1m

* --- design-intent repair (does not change topology) ---
Rshunt_n2 n2 0 1e+09
Rshunt_n3 n3 0 1e+09
Rshunt_n4 n4 0 1e+09

.op
.end
