* Auto-generated SPICE netlist (NO TEXT OCR USED)

* SAME_NODE_SKIPPED I-DC both_on=0
R1 n1 0 1k

* --- design-intent repair (does not change topology) ---
Rshunt_n1 n1 0 1e+09

.op
.end
